### PR TITLE
[Merged by Bors] - feat(Order/Completion): embed a linear order into a dense and complete linear order

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
The aim of the PR is to prove the following theorem that will be used as an input to [Sion.DMCompletion.exists_isSaddlePointOn](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Sion.html#Sion.DMCompletion.exists_isSaddlePointOn) :
*If `β` is any linear order, then there exists a complete and dense linear order `γ` together with a continuous embedding `ι : β ↪o γ` (for the order topologies on `β` and `γ`).*

Meanwhile, the PR also records various instances about dense orders and lemmas regarding the Dedekind MacNeille completion and lexicographic orders.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Prod/Lex.lean [hunk 1]
```diff
@@ -201,6 +201,36 @@ instance [Preorder α] [Preorder β] [DenselyOrdered α] [DenselyOrdered β] :
     · obtain ⟨c, h₁, h₂⟩ := exists_between h
       exact ⟨(a, c), right _ h₁, right _ h₂⟩
 
+instance [Preorder α] [Preorder β] [NoMinOrder β] [DenselyOrdered β] :
```
Comment (vihdzp) [inline Mathlib/Data/Prod/Lex.lean:224]: Does this work?
```suggestion
@[to_dual]
instance [Preorder α] [Preorder β] [NoMinOrder β] [DenselyOrdered β] :
```

File: Mathlib/Order/Completion.lean [hunk 2]
```diff
@@ -105,6 +105,17 @@ theorem principal_le_principal {a b : α} : principal a ≤ principal b ↔ a 
 theorem principal_lt_principal {a b : α} : principal a < principal b ↔ a < b := by
   simp [lt_iff_le_not_ge]
 
+lemma principal_le_iff {a : α} {c : DedekindCut α} :
+    principal a ≤ c ↔ a ∈ c.left := by
+  simp only [← extent_subset_extent_iff, left_principal]
+  exact ⟨fun h ↦ h self_mem_Iic, fun h y hy ↦ mem_extent_of_rel_extent (le_of_le_of_eq hy rfl) h⟩
```
Comment (vihdzp) [inline Mathlib/Order/Completion.lean]:
```suggestion
    principal a ≤ c ↔ a ∈ c.left := by
  simp only [← extent_subset_extent_iff, left_principal]
  exact ⟨fun h ↦ h self_mem_Iic, fun h y hy ↦ mem_extent_of_rel_extent hy h⟩
```
You can even remove the first `simp only` line if you're willing to abuse some def-eqs.

File: Mathlib/Order/Completion.lean [hunk 3]
```diff
@@ -105,6 +105,17 @@ theorem principal_le_principal {a b : α} : principal a ≤ principal b ↔ a 
...
+
+lemma le_principal_iff {a : α} {c : DedekindCut α} :
+    c ≤ principal a ↔ a ∈ c.right := by
+  simp only [← DedekindCut.upperBounds_left, mem_upperBounds,
+    ← extent_subset_extent_iff, left_principal]
+  exact ⟨fun h _ hx ↦ h hx, fun h x hx ↦ h x hx⟩
```
Comment (vihdzp) [inline Mathlib/Order/Completion.lean]: The same proof as above works almost verbatim.
```suggestion
  simp only [← intent_subset_intent_iff, right_principal]
  exact ⟨fun h ↦ h self_mem_Ici, fun h _y hy ↦ mem_intent_of_intent_rel hy h⟩
```

File: Mathlib/Order/Completion.lean [hunk 4]
```diff
@@ -205,10 +216,36 @@ noncomputable instance : LinearOrder (DedekindCut α) where
   le_total := total_of _
   toDecidableLE := inferInstance
 
+/-- Use `DedekindCut.lt_iff_exists'` for a version with `<` and `≤` swapped -/
+theorem lt_iff_exists {a b : DedekindCut α} :
+    a < b ↔ ∃ c, a < principal c ∧ principal c ≤ b := by
+  refine ⟨fun h ↦ ?_, fun ⟨c, hca, hcb⟩ ↦ lt_of_lt_of_le hca hcb⟩
```
Comment (vihdzp) [inline Mathlib/Order/Completion.lean]:
```suggestion
  refine ⟨fun h ↦ ?_, fun ⟨c, hca, hcb⟩ ↦ hca.trans_le hcb⟩
```

File: Mathlib/Order/Completion.lean [hunk 5]
```diff
@@ -205,10 +216,36 @@ noncomputable instance : LinearOrder (DedekindCut α) where
...
+  rw [← extent_ssubset_extent_iff, Set.ssubset_iff_exists] at h
+  simp only [← not_le, principal_le_iff]
+  obtain ⟨c, hcb, hca⟩ := h.2
+  refine ⟨c, hca, hcb⟩
```
Comment (vihdzp) [inline Mathlib/Order/Completion.lean]:
```suggestion
  simpa [← not_le, principal_le_iff, and_comm] using h.2
```

File: Mathlib/Order/Completion.lean [hunk 6]
```diff
@@ -205,10 +216,36 @@ noncomputable instance : LinearOrder (DedekindCut α) where
...
+
+/-- Variant of `DedekindCut.lt_iff_exists` with `<` and `≤` swapped -/
+theorem lt_iff_exists' {a b : DedekindCut α} :
+    a < b ↔ ∃ c, a ≤ principal c ∧ principal c < b := by
+  refine ⟨fun h ↦ ?_, fun ⟨c, hca, hcb⟩ ↦ lt_of_le_of_lt hca hcb⟩
+  rw [← intent_ssubset_intent_iff, Set.ssubset_iff_exists] at h
+  simp only [← not_le, le_principal_iff]
+  exact h.2
```
Comment (vihdzp) [inline Mathlib/Order/Completion.lean]:
```suggestion
  simpa [← not_le, le_principal_iff] using h.2
```

File: Mathlib/Order/Completion.lean [hunk 7]
```diff
@@ -205,10 +216,36 @@ noncomputable instance : LinearOrder (DedekindCut α) where
...
+instance [DenselyOrdered α] : DenselyOrdered (DedekindCut α) where
+  dense a b h := by
+    obtain ⟨c, hac, hcb⟩ := lt_iff_exists.mp h
+    obtain ⟨d, had, hdc⟩ := lt_iff_exists'.mp hac
+    simp only [principal_lt_principal] at hdc
+    obtain ⟨u, _, _⟩ := DenselyOrdered.dense d c hdc
+    exact ⟨principal u, lt_of_le_of_lt had (by simpa), lt_of_lt_of_le (by simpa) hcb⟩
+
 end LinearOrder
+
```
Comment (vihdzp) [inline Mathlib/Order/Completion.lean:255]: ?
```suggestion
```

File: Mathlib/Order/Completion.lean [hunk 8]
```diff
@@ -205,10 +216,36 @@ noncomputable instance : LinearOrder (DedekindCut α) where
...
   __ := (inferInstance : CompleteLattice _)
   __ := LinearOrder.toBiheytingAlgebra _
 
+instance [DenselyOrdered α] : DenselyOrdered (DedekindCut α) where
+  dense a b h := by
+    obtain ⟨c, hac, hcb⟩ := lt_iff_exists.mp h
+    obtain ⟨d, had, hdc⟩ := lt_iff_exists'.mp hac
+    simp only [principal_lt_principal] at hdc
+    obtain ⟨u, _, _⟩ := DenselyOrdered.dense d c hdc
+    exact ⟨principal u, lt_of_le_of_lt had (by simpa), lt_of_lt_of_le (by simpa) hcb⟩
```
Comment (vihdzp) [inline Mathlib/Order/Completion.lean]:
```suggestion
    exact ⟨principal u, had.trans_lt (by simpa), hcb.trans_lt' (by simpa)⟩
```

File: Mathlib/Order/DenseCompletion.lean [hunk 9]
```diff
@@ -0,0 +1,49 @@
...
+
+* `DedekindCut.embedLex`: given `b : β`,
+  embeds a partial order `α` into `DedekindCut (α ×ₗ β)`.
+
+* `DedekindCut.embedBotTopLex`: given `b : β`,
+  embeds a partial order `α` into `WithBot (WithTop (DedekindCut (α ×ₗ β)))`.
+
+The interest of these definitions is that when `β` is linearly ordered, densely ordered
+and has no extremal elements, the target orders is dense and,
+in the second case, complete. It suffices to take `β := ℚ`.
```
Comment (vihdzp) [inline Mathlib/Order/DenseCompletion.lean]: `DedekindCut α` is unconditionally a complete lattice.

File: Mathlib/Order/DenseCompletion.lean [hunk 10]
```diff
@@ -0,0 +1,95 @@
...
+namespace DedekindCut
+
+open Set Concept
+
+variable {α β : Type*}
+
+noncomputable def embedLex [PartialOrder α] [PartialOrder β] (b : β) :
+    α ↪o DedekindCut (Lex (α × β)) :=
+  RelEmbedding.trans principalEmbedding (factorEmbedding (
+    ({toFun c := toLex (c, b),
```
Comment (vihdzp) [inline Mathlib/Order/DenseCompletion.lean]: This seems like a special case of the following construction: given `α ↪o β` and `γ ↪o δ`, construct an embedding `α ×ₗ γ ↪o β ×ₗ δ`. We could then use this to golf a couple of theorems on ordinal/order type multiplication.

Comment (AntoineChambert-Loir) [reply Mathlib/Order/DenseCompletion.lean]: Yes. But I have temporarily removed this part :
it doesn't do the job I expected, because for the application I have in mind,
I need this map (or a correct one) to be continuous for the order topology, and this one isn't in general.

Comment (AntoineChambert-Loir) [reply Mathlib/Order/DenseCompletion.lean]: I'll try to not forget this, and maybe do that golfing.

**Comment by vihdzp** [comment]
What's the theorem you're trying to prove? Every linear order with the order topology embeds via a continuous map into a dense complete linear order?

**Comment by AntoineChambert-Loir** [comment]
Yes, but I need that embedding to be continuous for the order topologies. Then the lex product with Q doesn't work, and I believe i'll have to fill the holes but nothing more. (I updated the above description.)

**Comment by vihdzp** [comment]
I believe `Dedekind.principal` should always be continuous. You should be able to prove this by showing `principal ⁻¹' Iio x = ⋃ y ∈ x.left, Iio (principal y)`, and likewise for `Ioi`. Also, the Dedekind completion of a dense order is dense. So that reduces the problem to embedding a linear order into a dense linear order continuously.

**Comment by vihdzp** [comment]
Embedding `α` into `α ×ₗ ℚ` doesn't work directly, but I think you can salvage it by taking a subtype instead. Say that your embedding maps `x` into `toLex (x, 0)`. My idea is this: if `x` does not have a predecessor, remove all elements `toLex (x, y)` with `y < 0` from the subtype. If `x` has no successor, remove all elements `toLex (x, y)` with `0 < y`. I believe this subtype of `α ×ₗ ℚ` should be dense, and the embedding `fun x ↦ toLex (x, 0)` will be continuous.

In other words, you're adding a copy of ℚ in between any two consecutive elements.

**Comment by AntoineChambert-Loir** [comment]
Exactly, that's what I meant with “filling the holes”.

**Comment by AntoineChambert-Loir** [comment]
I find it easier (the formalization will say so, or not) to define an adequate Sigma type.

File: Mathlib/Order/Completion.lean [hunk 11]
```diff
@@ -205,10 +215,71 @@ noncomputable instance : LinearOrder (DedekindCut α) where
...
+
+theorem lt_principal_iff {a : α} {c : DedekindCut α} :
+    c < principal a ↔ ∃ b ∈ c.right, b < a := by
+  rw [← not_le, principal_le_iff]
+  rw [not_iff_comm, not_exists, ← principal_le_iff]
+  rw [← intent_subset_intent_iff]
+  simp_rw [← not_le, not_and, not_not]
+  rfl
+
+theorem continuous_principal [TopologicalSpace α] [OrderTopology α]
```
Comment (vihdzp) [inline Mathlib/Order/Completion.lean]: I'm not sure if I feel all too comfortable importing topology to talk about Dedekind cuts. Worth getting a second opinion, but I would personally put this in some file about the order topology and complete lattices.

**Review by vihdzp — COMMENTED** [review]
I think everything outside of `Order.Fill` and the `continuous_principal` theorem would make a good self-contained PR.

File: Mathlib/Order/Fill.lean [hunk 12]
```diff
@@ -0,0 +1,493 @@
...
+@[expose] public section
+
+namespace Order
+
+/-- a `Hole` in a partial order is a (nontrivially) empty open interval -/
+structure Hole (α : Type*) [PartialOrder α] where
+  left : α
+  right : α
+  left_lt_right : left < right
+  Ioo_empty : Set.Ioo left right = ∅
```
Comment (vihdzp) [inline Mathlib/Order/Fill.lean]: `left ⋖ right` might be an easier spelling for this.

File: Mathlib/Order/Fill.lean [hunk 13]
```diff
@@ -0,0 +1,493 @@
...
+noncomputable instance : LinearOrder (Hole α) where
+  le_total x t := by simp [le_iff_left, Std.le_total]
+  toDecidableLE := Classical.decRel LE.le
+
+end LinearOrder
+
+end Hole
+
+/-- The `Fill α f` of a preorder `α` replaces all `x : Hole α` with the preorder `f x`  -/
+inductive Fill {α : Type*} [PartialOrder α] (f : Hole α → Type*)
```
Comment (vihdzp) [inline Mathlib/Order/Fill.lean]: Might be easier to write this as `α ⊕ (x : Hole α) × f x`?

**Review by vihdzp — COMMENTED** [review]
I'll try out my own formalization of this order, if it's any simpler than this I'll let you know.

**Comment by vihdzp** [comment]
This is one fourth the length of your code :)
```lean 4
/-
Copyright (c) 2026 Violeta Hernández Palacios. All rights reserved.
Released under Apache 2.0 license as described in the file LICENSE.
Authors: Violeta Hernández Palacios, Antoine Chambert-Loir
-/
module

public import Mathlib.Data.Prod.Lex
public import Mathlib.Order.SuccPred.Limit
public import Mathlib.Topology.Order.Basic

import Mathlib.Algebra.Order.Field.Basic

@[expose] public section

namespace Order

variable {α : Type*} [LinearOrder α]

/-- A dense linear order into which α embeds continuously, formed by "filling in" the blanks. -/
abbrev Fill (α : Type*) [LinearOrder α] : Type _ :=
  {x : α ×ₗ ℚ //
    (IsSuccPrelimit (ofLex x).1 → 0 ≤ (ofLex x).2) ∧
    (IsPredPrelimit (ofLex x).1 → (ofLex x).2 ≤ 0) }

namespace Fill

instance [TopologicalSpace α] [OrderTopology α] : TopologicalSpace (Fill α) :=
  Preorder.topology _

instance [TopologicalSpace α] [OrderTopology α] : OrderTopology (Fill α) :=
  ⟨rfl⟩

/-- A continuous embedding of `α` into `Fill α`. -/
def some : α ↪o Fill α where
  toFun x := ⟨toLex (x, 0), by simp⟩
  inj' _ := by simp
  map_rel_iff' := by simp [Prod.Lex.toLex_le_toLex']

instance : DenselyOrdered (Fill α) where
  dense := by
    simp only [ofLex_toLex, Subtype.forall, Prod.Lex.lt_iff, Subtype.mk_lt_mk,
      Lex.forall, Prod.forall]
    rintro x q ⟨hx₁, hx₂⟩ y r ⟨hy₁, hy₂⟩ (h | ⟨rfl, h⟩)
    · by_cases hx : IsPredPrelimit x
      · obtain ⟨z, hz, hz'⟩ := hx.lt_iff_exists_lt.1 h
        use some z
        simp [some, Prod.Lex.lt_iff, hz', hz]
      obtain ⟨s, hs⟩ := exists_gt (max 0 q)
      rw [max_lt_iff] at hs
      refine ⟨⟨toLex (x, s), ?_⟩, ?_⟩
      · simp [hx, hs.1.le]
      · simp [Prod.Lex.lt_iff, hs.2, h]
    · obtain ⟨s, hs, hs'⟩ := exists_between h
      refine ⟨⟨toLex (x, s), ?_⟩, ?_⟩
      · grind [ofLex_toLex]
      · simp [Prod.Lex.lt_iff, hs, hs']

theorem continuous_some [TopologicalSpace α] [OrderTopology α] : Continuous (X := α) some := by
  simp only [OrderTopology.continuous_iff, ofLex_toLex, Subtype.forall, Lex.forall, Prod.forall]
  refine fun x q ⟨hx₁, hx₂⟩ ↦ ⟨?_, ?_⟩
  · obtain hq | hq := le_or_gt 0 q
    · convert isOpen_Ioi (a := x)
      ext
      simp [some, Prod.Lex.lt_iff, hq.not_gt]
    · obtain ⟨y, hy⟩ := (not_isSuccPrelimit_iff_exists_covBy _).1 <| mt hx₁ hq.not_ge
      convert isOpen_Ioi (a := y)
      ext
      simpa [some, Prod.Lex.lt_iff, hq, le_iff_lt_or_eq] using hy.le_iff_lt_right
  · obtain hq | hq := le_or_gt q 0
    · convert isOpen_Iio (a := x)
      ext
      simp [some, Prod.Lex.lt_iff, hq.not_gt]
    · obtain ⟨y, hy⟩ := (not_isPredPrelimit_iff_exists_covBy _).1 <| mt hx₂ hq.not_ge
      convert isOpen_Iio (a := y)
      ext
      simpa [some, Prod.Lex.lt_iff, hq, le_iff_lt_or_eq] using hy.le_iff_lt_left

end Fill
end Order
```

**Comment by AntoineChambert-Loir** [comment]
It's shorter but it does less, although this “less” (holes, etc.) might be uninteresting, and I'm not so happy with the going through `Lex`, I feel it unnatural.

File: Mathlib/Order/Fill.lean (hunk 13 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Order/Fill.lean]: I believe structures hide the specific implementation of a type as a product of which being the first argument is a totally irrelevant question.

File: Mathlib/Order/Fill.lean (hunk 12 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Order/Fill.lean]: Indeed, this is exactly what `CovBy` means, thanks for pointing this out.

File: Mathlib/Order/Completion.lean (hunk 11 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Order/Completion.lean]: Probably, topology of cuts should go into another file. Maybe DedekindCut.Basic, DedekindCut.Topology, and having Order.Fill or something like that for the “Hole/Fill” part.

**Comment by AntoineChambert-Loir** [comment]
> I think everything outside of `Order.Fill` and the `continuous_principal` theorem would make a good self-contained PR.
What about `Order.Hole`?

File: Mathlib/Order/Completion.lean (hunk 11 above)
Comment (ADedecker) [reply Mathlib/Order/Completion.lean]: I would suggest `Mathlib.Topology.Order.Completion`

**Comment by vihdzp** [comment]
> It's shorter but it does less, although this “less” (holes, etc.) might be uninteresting, and I'm not so happy with the going through `Lex`, I feel it unnatural.

What else do you need it to do? Isn't the core result "any linear order embeds continuously into a dense linear order"?

**Comment by AntoineChambert-Loir** [comment]
I'm more interested into formalizing the how and the why than the what. It's OK, the core result is there.

**Comment by vihdzp** [comment]
Both of our constructions are ultimately isomorphic, so I don't see what distinction you're making.

**Comment by ADedecker** [comment]
I spent way too long trying to build something withe the flexibility of Antoine's approach as well as the conciseness of Violeta's, but this is not a huge success.

One thing to note is that Antoine's construction also works for densifying a *partial* order, as long as the order relation on holes compares both the left and the right components (which is still more natural, and in the linearly ordered case it's the same).

I think a reasonable middle ground (to keep some flexibility while still allowing for a more direct approach) would be to fill all holes with a single order. Then I would define `Fill` in the same way Antoine does (an inductive type is probably more natural to use), but pull back the order relation from an appropriate Lex (which means that you get most properties for free, except for continuity which is really specific to the situation).

How does this sound ? Antoine, do you have any reason to believe that the flexibility of putting a different order at different holes could matter for some application ?

**Comment by vihdzp** [comment]
> One thing to note is that Antoine's construction also works for densifying a *partial order*.

The theorem that any order embeds in a dense order (not necessarily continuously) is trivial, since you can just take the lex product with the rationals (or any other dense nonempty order). The key property here is continuity, but the order topology doesn't really make sense in a partial order (it is well-defined, but rarely if ever the topology you actually want to put on it).

File: Mathlib/Data/Prod/Lex.lean [hunk 14]
```diff
@@ -201,6 +201,37 @@ instance [Preorder α] [Preorder β] [DenselyOrdered α] [DenselyOrdered β] :
...
+    simp only [Prod.Lex.toLex_lt_toLex] at h
+    rcases h with (h | h)
+    · obtain ⟨v, hv⟩ := exists_lt u
+      use toLex (b, v)
+      simp [Prod.Lex.toLex_lt_toLex, h, hv]
+    · obtain ⟨v, htv, hvu⟩ := DenselyOrdered.dense t u h.2
+      use toLex (a, v)
+      simp [Prod.Lex.toLex_lt_toLex, h.1, htv, hvu]
+
+@[to_dual existing]
```
Comment (vihdzp) [inline Mathlib/Data/Prod/Lex.lean:238]: Using `to_dual` instead of `to_dual existing` is a bit difficult here... we'd require #38196 plus a version of `DenselyOrdered.dense` spelled out using `Ioo` instead of `a < c ∧ c < b`. So, can you leave that as a TODO?

File: Mathlib/Topology/Order/Completion.lean [hunk 15]
```diff
@@ -0,0 +1,146 @@
...
+  let : TopologicalSpace (Fill α) := inferInstance
+  let : OrderTopology (Fill α) := inferInstance
+  set β := DedekindCut (Fill α)
+  let : TopologicalSpace β := Preorder.topology β
+  have orderTop : OrderTopology β := ⟨rfl⟩
+  let ι : α ↪o β := Fill.some.trans DedekindCut.principalEmbedding
+  refine ⟨DedekindCut (Fill α), inferInstance, inferInstance, inferInstance, orderTop,
+    Fill.some.trans DedekindCut.principalEmbedding, ?_⟩
+  simp only [RelEmbedding.coe_trans]
+  exact Continuous.comp DedekindCut.continuous_principal Fill.continuous_some
```
Comment (vihdzp) [inline Mathlib/Topology/Order/Completion.lean]: Assuming that we want to keep `Order.Fill` public, I don't see a reason to have this.
```suggestion
      (_ : OrderTopology β) (ι : α ↪o β), Continuous ι :=
  ⟨_, inferInstance, inferInstance, inferInstance, inferInstance, _, Fill.continuous_some⟩
```

File: Mathlib/Topology/Order/Completion.lean [hunk 16]
```diff
@@ -0,0 +1,146 @@
...
+
+* `Order.Fill.some`: the ordered embedding `α ↪o Order.Fill α`
+
+* `Order.Fill.continuous_some` : the map `⇑Order.Fill.some`
+is continuous for the order topologies.
+
+* `Order.exists_dense_continuous_completion` :
+any linear order embeds continuously (for the order topologies)
+into a a dense and complete linear order.
+
```
Comment (vihdzp) [inline Mathlib/Topology/Order/Completion.lean]: Formatting seems kinda weird to me.
```suggestion
public import Mathlib.Order.UpperLower.CompleteLattice
public import Mathlib.Order.Completion

import Mathlib.Algebra.Order.Field.Basic

/-!
# Dense and continuous completion of a linear order

Let `α` be a linear order.

* `DedekindCut.continuous_principal`: the canonical map
  `DedekindCut.principal : α → DedekindCut α` is continuous for the order topologies.
* `Order.Fill α`: a dense linear order that extends `α`.
* `Order.Fill.some`: the order embedding `α ↪o Order.Fill α`/.
* `Order.Fill.continuous_some`: the map `⇑Order.Fill.some`
  is continuous for the order topologies.
* `Order.exists_dense_continuous_completion`:
  any linear order embeds continuously (for the order topologies)
  into a dense and complete linear order.
```

File: Mathlib/Topology/Order/Completion.lean [hunk 17]
```diff
@@ -0,0 +1,146 @@
...
+-/
+
+@[expose] public section
+
+open Set
+
+variable {α : Type*} [LinearOrder α]
+theorem DedekindCut.continuous_principal [TopologicalSpace α] [OrderTopology α]
```
Comment (vihdzp) [inline Mathlib/Topology/Order/Completion.lean:40]: I'm not opposed to having this here. but as of now this theorem is entirely disconnected from the rest of the file.

File: Mathlib/Topology/Order/Completion.lean [hunk 18]
```diff
@@ -0,0 +1,146 @@
...
+  [TopologicalSpace (DedekindCut α)] [OrderTopology (DedekindCut α)] :
```
Comment (vihdzp) [inline Mathlib/Topology/Order/Completion.lean]: I think it'd be sensible to create these instances whenever `α` has the order topology.

File: Mathlib/Topology/Order/Completion.lean [hunk 19]
```diff
@@ -0,0 +1,146 @@
...
+    simp only [mem_Ioi, mem_preimage, lt_principal_iff]
+    exact fun h ↦ ⟨b, ⟨hb, h⟩⟩
+  · simp only [mem_preimage, mem_Iio, Filter.le_principal_iff]
+    rw [principal_lt_iff]
+    rintro ⟨b, hb, hba⟩
+    rw [mem_nhds_iff]
+    use Iio b
+    refine ⟨fun x ↦ ?_, isOpen_Iio, mem_Iio.mpr hba⟩
+    simp only [mem_Iio, mem_preimage, principal_lt_iff]
+    refine fun h ↦ ⟨b, ⟨hb, h⟩⟩
```
Comment (vihdzp) [inline Mathlib/Topology/Order/Completion.lean]:
```suggestion
  refine fun c ↦ ⟨?_, ?_⟩
  · have : IsOpen (⋃ a ∈ c.right, Ioi a) := isOpen_biUnion fun _ _ ↦ isOpen_Ioi
    convert this
    ext
    simp [lt_principal_iff]
  · have : IsOpen (⋃ a ∈ c.left, Iio a) := isOpen_biUnion fun _ _ ↦ isOpen_Iio
    convert this
    ext
    simp [principal_lt_iff]
```

File: Mathlib/Topology/Sion.lean [hunk 20]
```diff
@@ -4,7 +4,6 @@ Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Antoine Chambert-Loir, Anatole Dedecker
 -/
 module
-
```
Comment (vihdzp) [inline Mathlib/Topology/Sion.lean:7]: Can you revert this?

File: Mathlib/Topology/Sion.lean [hunk 21]
```diff
@@ -487,9 +486,8 @@ variable [TopologicalSpace F] [AddCommGroup F] [Module ℝ F]
   (hfx : ∀ x ∈ X, UpperSemicontinuousOn (fun y : F => f x y) Y)
   (hfx' : ∀ x ∈ X, QuasiconcaveOn ℝ Y fun y => f x y)
 
-/- The following lines essentially assume that `β` has a Dedekind MacNeille completion,
-but this is not in mathlib yet.
-One could then take `ι` to be the embedding of `β` into its DM completion. -/
+/- The following lines essentially assume that `β` has a densely ordered completion.
+(The Dedekind MacNeille completion is not densely ordered.) -/
```
Comment (vihdzp) [inline Mathlib/Topology/Sion.lean]: This comment seems misleading, since the Dedekind completion is densely ordered in at least some cases. Perhaps you can replace this comment with a TODO to make use of the new material in `Topology.Order.Completion`?

File: Mathlib/Topology/Order/Completion.lean [hunk 22]
```diff
@@ -0,0 +1,146 @@
...
+any linear order embeds continuously (for the order topologies)
+into a a dense and complete linear order.
+
+-/
+
+@[expose] public section
+
+open Set
+
+variable {α : Type*} [LinearOrder α]
```
Comment (vihdzp) [inline Mathlib/Topology/Order/Completion.lean:38]:
```suggestion
variable {α : Type*} [LinearOrder α]

```

File: Mathlib/Topology/Order/Completion.lean (hunk 15 above)
Comment (vihdzp) [reply Mathlib/Topology/Order/Completion.lean]: If you meant to make `β` a complete linear order instead of just a linear order, then this theorem is still  trivial. But I think tihs version is worth having, if only to avoid people having to figure out what `DedekindCut (Fill α)` means.
```lean 4
/-- Every linear order embeds continuously in a dense complete linear order. -/
theorem exists_dense_continuous_completion
    (α : Type u) [LinearOrder α] [TopologicalSpace α] [OrderTopology α] :
    ∃ (β : Type u) (_ : CompleteLinearOrder β) (_ : DenselyOrdered β) (_ : TopologicalSpace β)
      (_ : OrderTopology β) (ι : α ↪o β), Continuous ι :=
  ⟨_, inferInstance, inferInstance, inferInstance, inferInstance,
    Fill.some.trans DedekindCut.principalEmbedding,
    DedekindCut.continuous_principal.comp Fill.continuous_some⟩
```

File: Mathlib/Data/Prod/Lex.lean (hunk 14 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Data/Prod/Lex.lean:238]: I would prefer not to.

File: Mathlib/Topology/Order/Completion.lean (hunk 17 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Topology/Order/Completion.lean:40]: It's used at the end.

File: Mathlib/Topology/Order/Completion.lean (hunk 18 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Topology/Order/Completion.lean]: I don't think so, it's not necessary here, and without further applications in view, I feel wary of adding instances.

File: Mathlib/Topology/Sion.lean (hunk 21 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Topology/Sion.lean]: I'll adjust the comment. The TODO is unnecessary, the new PR is already in the list and is mentioned here.

File: Mathlib/Data/Prod/Lex.lean (hunk 14 above)
Comment (vihdzp) [reply Mathlib/Data/Prod/Lex.lean:238]: WDYM? the point is that someone (probably me) should fix this in the near future, so we might as well leave a reminder.

**Review by vihdzp — APPROVED** [review]
I'm not all too comfortable with having `[TopologicalSpace (DedekindCut α)] [OrderTopology (DedekindCut α)]` as assumptions to a theorem. But other than that, this LGTM.

File: Mathlib/Data/Prod/Lex.lean [hunk 23]
```diff
@@ -215,6 +215,37 @@ instance [Preorder α] [Preorder β] [DenselyOrdered α] [DenselyOrdered β] :
     · obtain ⟨c, h₁, h₂⟩ := exists_between h
       exact ⟨(a, c), right _ h₁, right _ h₂⟩
 
+instance [Preorder α] [Preorder β] [NoMinOrder β] [DenselyOrdered β] :
+    DenselyOrdered (α ×ₗ β) where
+  dense x y h := by
+    have this (x : α ×ₗ β) : ∃ a t, x = toLex (a, t) := ⟨x.1 , x.2, rfl⟩
```
Comment (vihdzp) [inline Mathlib/Data/Prod/Lex.lean]: Does `cases x` work here instead?

Comment (AntoineChambert-Loir) [reply Mathlib/Data/Prod/Lex.lean]: Yes.

File: Mathlib/Order/Completion.lean [hunk 24]
```diff
@@ -105,6 +105,16 @@ theorem principal_le_principal {a b : α} : principal a ≤ principal b ↔ a 
 theorem principal_lt_principal {a b : α} : principal a < principal b ↔ a < b := by
   simp [lt_iff_le_not_ge]
 
+lemma principal_le_iff {a : α} {c : DedekindCut α} :
+    principal a ≤ c ↔ a ∈ c.left := by
+  simp only [← extent_subset_extent_iff, left_principal]
+  exact ⟨fun h ↦ h self_mem_Iic, fun h y hy ↦ mem_extent_of_rel_extent hy h⟩
+
+lemma le_principal_iff {a : α} {c : DedekindCut α} :
+    c ≤ principal a ↔ a ∈ c.right := by
```
Comment (YaelDillies) [inline Mathlib/Order/Completion.lean:118]: These could reasonably be simp lemmas, no?

File: Mathlib/Topology/Order/Completion.lean [hunk 25]
```diff
@@ -0,0 +1,127 @@
...
+public import Mathlib.Order.Completion
+
+import Mathlib.Algebra.Order.Field.Basic
+
+/-!
+# Dense and continuous completion of a linear order
+
+Let `α` be a linear order.
+
+* `DedekindCut.continuous_principal`: the canonical map
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/Completion.lean]: The read is a bit abrupt. Could you expand the paragraph?

File: Mathlib/Topology/Order/Completion.lean [hunk 26]
```diff
@@ -0,0 +1,127 @@
...
+* `Order.Fill α`: a dense linear order that extends `α`.
+* `Order.Fill.some`: the order embedding `α ↪o Order.Fill α`/.
+* `Order.Fill.continuous_some`: the map `⇑Order.Fill.some`
+  is continuous for the order topologies.
+* `Order.exists_dense_continuous_completion`:
+  any linear order embeds continuously (for the order topologies)
+  into a dense and complete linear order.
+-/
+
+@[expose] public section
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/Completion.lean:34]: Can you move it to the declarations that need it?
```suggestion
public section
```

File: Mathlib/Order/Completion.lean (hunk 24 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Order/Completion.lean:118]: Yes, and this fits with the lemmas that are just above.

File: Mathlib/Topology/Order/Completion.lean (hunk 25 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Topology/Order/Completion.lean]: I tried to add some sentences. (But the first one really said what it wanted to say.)

File: Mathlib/Topology/Order/Completion.lean (hunk 26 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Topology/Order/Completion.lean:34]: I believe that every declaration of the file should be made public. Maybe I don't understand what `@[expose]` does.

Comment (YaelDillies) [reply Mathlib/Topology/Order/Completion.lean:34]: `public` means "The declaration is visible in downstream files". `expose` means "The body of the declaration is visible in downstream files".

File: Mathlib/Data/Prod/Lex.lean [hunk 27]
```diff
@@ -215,6 +215,35 @@ instance [Preorder α] [Preorder β] [DenselyOrdered α] [DenselyOrdered β] :
     · obtain ⟨c, h₁, h₂⟩ := exists_between h
       exact ⟨(a, c), right _ h₁, right _ h₂⟩
 
+instance [Preorder α] [Preorder β] [NoMinOrder β] [DenselyOrdered β] :
+    DenselyOrdered (α ×ₗ β) where
+  dense x y h := by
+    cases x with | h x =>
+    cases y with | h y =>
```
Comment (vihdzp) [inline Mathlib/Data/Prod/Lex.lean]: I think this should work, same below.
```suggestion
    cases x with | h x
    cases y with | h y
```

File: Mathlib/Topology/Order/Completion.lean [hunk 28]
```diff
@@ -0,0 +1,129 @@
...
+
+/-!
+# Dense and continuous completion of a linear order
+
+Let `α` be a linear order.
+
+* `DedekindCut.continuous_principal`: the map `DedekindCut.principal : α → DedekindCut α`
+  that embeds `α` in its Dedekind completion is continuous for the order topologies.
+* `Order.Fill α`: this is a type with a dense linear order endowed
+with a continuous order-embedding `Order.Fill.some` of `α`.
```
Comment (vihdzp) [inline Mathlib/Topology/Order/Completion.lean]:
```suggestion
  with a continuous order-embedding `Order.Fill.some` of `α`.
```

File: Mathlib/Order/Completion.lean [hunk 29]
```diff
@@ -98,13 +98,25 @@ def principal (a : α) : DedekindCut α :=
...
 theorem principal_le_principal {a b : α} : principal a ≤ principal b ↔ a ≤ b := by
-  simpa using ofObject_le_ofAttribute_iff (r := (· ≤ ·)) (a := a)
+  simp
 
 @[simp]
 theorem principal_lt_principal {a b : α} : principal a < principal b ↔ a < b := by
   simp [lt_iff_le_not_ge]
 
+
 /-- We can never have a computable decidable instance, for the same reason we can't on `Set α`. -/
```
Comment (YaelDillies) [inline Mathlib/Order/Completion.lean]:
```suggestion
/-- We can never have a computable decidable instance, for the same reason we can't on `Set α`. -/
```

File: Mathlib/Order/Completion.lean [hunk 30]
```diff
@@ -98,13 +98,25 @@ def principal (a : α) : DedekindCut α :=
...
+lemma principal_le_iff {a : α} {c : DedekindCut α} :
+    principal a ≤ c ↔ a ∈ c.left := by
+  simp only [← extent_subset_extent_iff, left_principal]
+  exact ⟨fun h ↦ h self_mem_Iic, fun h y hy ↦ mem_extent_of_rel_extent hy h⟩
+
+@[simp]
+lemma le_principal_iff {a : α} {c : DedekindCut α} :
+    c ≤ principal a ↔ a ∈ c.right := by
+  simp only [← intent_subset_intent_iff, right_principal]
+  exact ⟨fun h ↦ h self_mem_Ici, fun h _y hy ↦ mem_intent_of_intent_rel hy h⟩
```
Comment (YaelDillies) [inline Mathlib/Order/Completion.lean:120]: Can `to_dual` generate the second one? If not, can you tag pre-existing declarations until it can?

Comment (AntoineChambert-Loir) [reply Mathlib/Order/Completion.lean:120]: I tried, but that fails dans les grandes largeurs.
The point seems to be that `DedekindCut` is translated to `Concept` where the order of parameters is changed - hence isn't correct. I tried to add `to_dual_dont_translate , but that didn't work.

File: Mathlib/Topology/Order/Completion.lean (hunk 26 above)
Comment (vihdzp) [reply Mathlib/Topology/Order/Completion.lean:34]: Assuming we even want `Fill` to be public outside of this file, I think everything here should be exposed.

File: Mathlib/Order/Completion.lean (hunk 30 above)
Comment (YaelDillies) [reply Mathlib/Order/Completion.lean:120]: Okay, that's a problem we have already encountered and we know how to solve it. The trick is to create an intermediate `abbrev OrderConcept (\alpha) [LE \alpha] := Concept \alpha (\. \le \.)` and tag _this_ with `to_dual` (or `to_dual_dont_translate`? you might want to check on Zulip).

Comment (vihdzp) [reply Mathlib/Order/Completion.lean:120]: Isn't `DedekindCut` the same as your `OrderConcept`?

Comment (YaelDillies) [reply Mathlib/Order/Completion.lean:120]: Hmm, yes, that's right. What's the correct `to_dual` incantation then?

Comment (vihdzp) [reply Mathlib/Order/Completion.lean:120]: @JovanGerb might know?

Comment (JovanGerb) [reply Mathlib/Order/Completion.lean:120]: Sorry, I hadn't seen this before. Some things that you need:
- `to_dual_insert_cast_fun DedekindCut := swap, swap`
- `@[to_dual_dont_translate]` for `DedekindCut` and `Concept`

But even with this setup, I didn't manage to make `to_dual` work on `principal_le_iff`. But I did manage to get `upperBounds_left` and `image_left_subset_lowerBounds` translated automatically with `to_dual`.

Comment (AntoineChambert-Loir) [reply Mathlib/Order/Completion.lean:120]: So let's agree that this request is out of the scope of the PR.

File: Mathlib/Topology/Order/Completion.lean (hunk 26 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Topology/Order/Completion.lean:34]: I do agree.

File: Mathlib/Data/Prod/Lex.lean (hunk 14 above)
Comment (YaelDillies) [reply Mathlib/Data/Prod/Lex.lean:238]: Can you please leave a TODO?

File: Mathlib/Order/Completion.lean (hunk 29 above)
Comment (YaelDillies) [reply Mathlib/Order/Completion.lean]: You did not address the extra line break

File: Mathlib/Order/Completion.lean (hunk 30 above)
Comment (YaelDillies) [reply Mathlib/Order/Completion.lean:120]: Yeah sure, it is looking difficult. Can you please leave a TODO?

File: Mathlib/Topology/Order/Completion.lean [hunk 31]
```diff
@@ -0,0 +1,129 @@
...
+-/
+
+@[expose] public section
+
+open Set
+
+variable {α : Type*} [LinearOrder α]
+
+theorem DedekindCut.continuous_principal [TopologicalSpace α] [OrderTopology α]
+  [TopologicalSpace (DedekindCut α)] [OrderTopology (DedekindCut α)] :
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/Completion.lean]:
```suggestion
    [TopologicalSpace (DedekindCut α)] [OrderTopology (DedekindCut α)] :
```

File: Mathlib/Order/Completion.lean (hunk 30 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Order/Completion.lean:120]: OK.

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Comment by riccardobrasca** [comment]
Can you please fix the error? Thanks!

bors d+
